US04356186
Ethyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionat
To a solution of 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionic acid (10 g) in ethanol (150 ml) was added 35% hydrochloric acid (10 ml) and the mixture was heated under reflux for 4 hours. Removal of the ethanol under reduced pressure afforded the title compound (10.8 g), b.p. 205° C./0.06 mmHg. IR νmaxfilm cm-1 : 1720, 1660 (C=O). HRMS m/e: 332.1475 (M+) (Molecular weight calculated for C19H24O3S: 332.1447).

reactant | 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionic acid | 10 g | O=C1C2=C(SCC3C1CCCC3)C=C(C=C2)C(C(=O)O)C | C17H20O3S
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 2-(6,6a,7,8,9,10,10a,11-octahydro-11-oxodibenzo[b,e]thiepin-3-yl)propionat | 10.8 g | O=C1C2=C(SCC3C1CCCC3)C=C(C=C2)C(C(=O)OCC)C | C19H24O3S
